data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-c1ccsc1_2-C#N_3-c1ccc2ccccc2c1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccsc1)(=S)N","C(c1ccc2ccccc2c1)(=O)C(C#N)Cl"],"products_smiles": ["c1ccsc1c1nc(c1ccc2ccccc2c1)c(C#N)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccsc1)(=[NH2+])SC(C#N)C(c1ccc2ccccc2c1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)(=N)SC(C#N)C(c1ccc2ccccc2c1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccsc1C1=[NH+]C(c1ccc2ccccc2c1)(O)C(C#N)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccsc1C1=NC(c1ccc2ccccc2c1)([OH2+])C(C#N)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccsc1c1nc(c1ccc2ccccc2c1)c(C#N)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-338_1-C1CCCCC1_2-c1ccccc1_3-C(C)C_4-c1ccc(C)cc1_5-C(C)(C)C","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(c1ccccc1)C(C)C)(C1CCCCC1)O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","O=C(OO)C(C)(C)C"],"products_smiles": ["C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccccc1)C(C)C)C1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C(c1ccccc1)(C(C)C)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C1CCCCC1)C([O-])(c1ccccc1)C(C)C","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1ccccc1)C(C)C)C1CCCCC1","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
